US07915250B2
A solution of 1,1-dimethylethyl [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate (113 mg, 0.20 mmol) and trifluoroacetic acid (500 μL) in dichloromethane (2 mL) was added stirred at room temperature for one hour then was partitioned between saturated aqueous sodium bicarbonate, and dichloromethane. The organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford a colorless residue which was purified by column chromatography eluting with 10% methanol in dichloromethane to afford 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine (85 mg, 95% yield) as a white foam. 1H NMR (400 MHz, CDCl3): 8.53 (s, 1H), 7.39 (d, 1H), 7.32 (d, 1H), 7.13-7.09 (m, 1H), 6.84-6.77 (m, 1H), 6.63-6.57 (m, 1H), 4.46-4.39 (m, 2H), 3.98-3.75 (br m, 4H); MS (EI) for C16H13F3IN3O: 448 (MH+).

reactant | 1,1-dimethylethyl [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate | 0.20 mmol, 113 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)NC(OC(C)(C)C)=O)NC1=C(C=C(C=C1)I)F | C21H21F3IN3O3
reactant | trifluoroacetic acid | 500 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-amine | 85 mg, 95% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)N)NC1=C(C=C(C=C1)I)F | C16H13F3IN3O
